US04751298
Synthesis of 1-(3-hydroxypropyl)-1,4-diazepane:
100 grams (0.598 mole) of cyanomethyl-(2-cyano-ethyl)-(3-hydroxy-propyl)-amine, 800 ml of ethanol, 67 grams of ammonia and 26 grams of Raney-nickel were heated in an autoclave during 2 hours under 80 to 100 bar hydrogen pressure at 70° C. (at the beginning) to 120° C. (toward the end). Subsequently the reaction mixture was worked up as described under (b). There were obtained 52 grams (55% of theory) as a final product.

reactant | cyanomethyl-(2-cyano-ethyl)-(3-hydroxy-propyl)-amine | 0.598 mole, 100 grams | C(#N)CN(CCCO)CCC#N | C8H13N3O
reactant | ammonia | 67 grams | N | H3N
reactant | hydrogen | [H][H] | H2
catalyst | Raney-nickel | 26 grams | [Ni] | Ni
solvent | ethanol | 800 ml | C(C)O | C2H6O
product | 1-(3-hydroxypropyl)-1,4-diazepane | OCCCN1CCNCCC1 | C8H18N2O
